* MicroFJ-40035 (Onsemi J-Series, 4 mm, 35 um) fast-output equivalent circuit.
* Same topology as template_fastout.cir / jseries_fastout.cir.
*
* ALL INPUTS BELOW ARE FROM THE J-SERIES DATASHEET (MICROJ-SERIES/D rev.7,
* docs/datasheets/microj-series-datasheet.pdf), Tables 1-3, at OV = +2.5 V:
*   NCELL   = 9260           (Table 2, 4 mm 35 um)
*   GAIN    = 2.9e6          (Table 3, anode-cathode, +2.5 V)
*   VBR     = 24.5           (Table 1, 24.2-24.7 V)
*   TAU_RECHARGE = 48 ns     (Table 3, microcell recharge time constant)
*   CF_TOTAL = 70 pF         (Table 3, fast-output capacitance)
*   anode capacitance 1800 pF (Table 3) -- N*Cmicro = 1721 pF (96%), consistent.
* Datasheet sanity targets: fast-output FWHM 1.7 ns, anode rise time 90 ps.
*
* MODEL FIDELITY: the standard (anode) output is set by the datasheet recharge
* tau and is well-matched. The lumped N*Cf fast-rail over-broadens the FAST
* output -- this deck gives ~2.7 ns FWHM vs the datasheet 1.7 ns (the error
* grows with array size). For an exact fast output, digitise the datasheet's
* MEASURED pulse (Fig. 5/6) and feed it to pulse_to_kernel.py instead.
*
* =====================  DATASHEET INPUTS  =====================
.param GAIN  = 2.9e6     ; Table 3, anode-cathode gain at +2.5 V
.param OV    = 2.5       ; overvoltage the gain is quoted at
.param VBR   = 24.5      ; Table 1 (24.2-24.7 V)
.param NCELL = 9260      ; Table 2 (4 mm, 35 um)
.param TAU_RECHARGE = 48n ; Table 3, microcell recharge time constant
.param CF_TOTAL = 70p    ; Table 3, fast-output capacitance (N*Cf)
.param RLFAST  = 50
.param RLANODE = 10
.param FQ = 0.086        ; Cq/(Cd+Cq), from the 30020 deck's 5.5/64 split
.param RD = 900          ; avalanche series R; sets the sub-ns rise edge
* =============================================================
*
.param E      = 1.602176634e-19
.param CMICRO = {GAIN*E/OV}
.param CQ     = {FQ*CMICRO}
.param CD     = {CMICRO-CQ}
.param RQ     = {TAU_RECHARGE/CMICRO}
.param CF     = {CF_TOTAL/NCELL}
.param NPAS   = {NCELL-1}

VBIAS k 0 DC {VBR+OV}

CD1 k nf {CD}
S1  k  nav fire 0 SWMOD
RD1 nav nbr {RD}
VBR1 nbr nf DC {VBR}
RQ1 nf a {RQ}
CQ1 nf a {CQ}
CF1 nf f {CF}

CDP k  np {NPAS*CD}
RQP np a {RQ/NPAS}
CQP np a {NPAS*CQ}
CFP np f {NPAS*CF}

RLF f 0 {RLFAST}
RLA a 0 {RLANODE}

VFIRE fire 0 PULSE(0 1 5n 20p 20p 2n 1u)
.model SWMOD SW(RON=1u ROFF=1G VT=0.5 VH=0.1)

.options reltol=1e-4 abstol=1e-15 chgtol=1e-18

.control
* >= ~8 * TAU_RECHARGE so the AC-coupled fast pulse fully returns to zero.
tran 2p 600n 0 10p
* fast (v(f)) and standard/anode (v(a)) outputs; pulse_to_kernel converts to
* current via the load R (RLFAST for v(f), RLANODE for v(a)).
wrdata spice/microfj_40035_tran.txt v(f) v(a)
quit
.endc
.end
